data/mechanism_extracts/JACS/10.1021_jacs.2c06273.json
{"doi": "10.1021_jacs.2c06273", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoelectrochemical (PEC) bromide-mediated epoxidation of alkenes on a BiVO4 photoanode using NaBr as redox mediator in H2O/CH3CN", "mechanism_family": ["mediator_anodic", "photoredox_combined", "electrocatalysis_outer_sphere", "cation_initiated"], "electrochemical_role": "Photogenerated holes at the BiVO4 photoanode oxidize Br- to Br2 (mediator); Br2 disproportionates in water to give the electrophilic [Br]+ (HBrO) that initiates alkene activation. Cathode performs HER, producing OH- needed for ring closure.", "key_intermediates": [{"name": "Br2 (anodically generated)", "smiles": "BrBr", "role": "transient"}, {"name": "HBrO / [Br]+ electrophilic bromenium", "smiles": "OBr", "role": "reactive"}, {"name": "cyclic bromonium ion of alkene (2)", "smiles": null, "role": "reactive"}, {"name": "bromohydrin (3)", "smiles": null, "role": "reactive"}, {"name": "epoxide product (4)", "smiles": null, "role": "reactive"}, {"name": "1,2-dibromide (5) side product", "smiles": null, "role": "off_pathway"}, {"name": "diol (6) side product", "smiles": null, "role": "off_pathway"}], "electron_flow": "Light excites BiVO4; holes at the photoanode oxidize Br- to Br2, which disproportionates with H2O to HBrO/[Br]+ and HBr. [Br]+ adds to the alkene C=C to give a bromonium, water opens it to bromohydrin, and OH- (from cathodic HER) closes it to the epoxide while regenerating Br-.", "rate_determining_step": "Photoanodic oxidation of Br- to Br2 (mediator turnover), as suggested by current-limited epoxide accumulation under light-on/off control", "probe_reagents": [{"name": "proton exchange membrane (two-compartment cell)", "smiles": null, "purpose": "intermediate_trap", "observation": "Anodic reaction stalls at bromohydrin 3 because OH- from the cathode cannot reach the anolyte, confirming bromohydrin as the on-cycle intermediate prior to OH--assisted cyclization"}, {"name": "dark control (no illumination)", "smiles": null, "purpose": "other", "observation": "No epoxide formed in the dark at 0.8 V; epoxide accumulates only under light, showing PEC (photo-driven) origin"}, {"name": "NaBr omission control", "smiles": "[Na+].[Br-]", "purpose": "redox_probe", "observation": "Only 8% epoxide yield without NaBr and water oxidation dominates; with NaBr, water oxidation is suppressed and epoxidation is selective"}, {"name": "NaClO4 substitution for NaBr", "smiles": "[Na+].[O-]Cl(=O)(=O)=O", "purpose": "redox_probe", "observation": "O2 evolution observed (water oxidation) instead of epoxidation, confirming Br- as the essential mediator"}, {"name": "GC headspace analysis", "smiles": null, "purpose": "other", "observation": "H2 quantified at cathode with ~100% FE; no O2 detected in sealed H-cell with NaBr, confirming suppression of OER"}], "evidence_types_used": ["on/off_light_or_current", "stoichiometric_intermediate", "isolation_of_intermediate", "UV_vis", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Mechanism is adapted from established halide-mediated EC epoxidation (refs 28, 31). NaBr plays a dual role: redox mediator for epoxidation and hole scavenger that stabilizes BiVO4 against photocorrosion (loss of V5+). Dibromide (5) and diol (6) side pathways are drawn in Scheme 1 but not observed experimentally. Non-unity FE (65%) attributed to accumulation of unreacted Br2/HBrO rather than side reactions."}
